US03993683
[2-(4-Biphenylyl)-2-oxo-ethyl-sulfinyl]-acetic acid isopropylamide
A suspension of 2.0 gm (6.1 millimols) of [2-(4-biphenylyl)-2-oxo-ethylthio]-acetic acid isopropylamide in 20 ml of glacial acetic acid was admixed with 1.3 ml of 30% hydrogen peroxide, and the mixture was stirred at room temperature for 2 hours. The reaction product was precipitated with water and recrystallized from ethyl acetate after drying. Yield: 71.4% of theory; m.p. 138°-1/3°C.

reactant | [2-(4-biphenylyl)-2-oxo-ethylthio]-acetic acid isopropylamide | 6.1 millimols, 2.0 gm | C(C)(C)NC(CSCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H21NO2S
reactant | hydrogen peroxide | 1.3 ml | OO | H2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | [2-(4-Biphenylyl)-2-oxo-ethyl-sulfinyl]-acetic acid isopropylamide | Yield: 71.4% | C(C)(C)NC(CS(=O)CC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H21NO3S
